US08242133B2
To a mixture of 0.71 g of 2-(3-chloropyridin-4-yl)methylideneamino-4-(trifluoromethyl)phenol and 10 ml of methanol, 0.80 g of iodobenzene diacetate was added at room temperature and stirred for 2.5 hours. The reaction mixture was concentrated under reduced pressure, and then water was added to the reaction mixture, followed by extraction with ethyl acetate. Organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.14 g of 2-(3-chloropyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 18”).

reactant | 2-(3-chloropyridin-4-yl)methylideneamino-4-(trifluoromethyl)phenol | 0.71 g | ClC=1C=NC=CC1C=NC1=C(C=CC(=C1)C(F)(F)F)O | C13H8ClF3N2O
reactant | iodobenzene diacetate | 0.80 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | methanol | 10 ml | CO | CH4O
product | 2-(3-chloropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.14 g | ClC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6ClF3N2O
